US20010047031A1
(3R)-4-[1-(2,2-Difluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol
The title compound, MS: m/e=364.2 (M+H+) was prepared from 2,2-difluoro-4-phenyl-butan-1-ol and (3R)-4-(pyrrolidin-3-ylsulfanyl)-phenol trifluoroacetic acid.

reactant | 2,2-difluoro-4-phenyl-butan-1-ol | FC(CO)(CCC1=CC=CC=C1)F | C10H12F2O
reactant | (3R)-4-(pyrrolidin-3-ylsulfanyl)-phenol trifluoroacetic acid | FC(C(=O)O)(F)F.N1C[C@@H](CC1)SC1=CC=C(C=C1)O
product | (3R)-4-[1-(2,2-Difluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol | FC(CN1C[C@@H](CC1)SC1=CC=C(C=C1)O)(CCC1=CC=CC=C1)F | C20H23F2NOS
